US04080275
(2-Ethoxyethyl)-p-benzoylbenzoate was prepared from para-benzoyl benzoic acid chloride and 2-ethoxyethanol. The structure of the product was confirmed by the presence of carbonyl bands in the infrared spectrum at 1670 and 1730 cm-1. When added at 4% by weight loading to the solution described in Example 1, a cure rate of 15 ft./min./lamp was obtained. A sample in the same test solution was stable after three months storage following the procedure described in Example 5.

reactant | para-benzoyl benzoic acid chloride | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)Cl)C=C1 | C14H9ClO2
reactant | 2-ethoxyethanol | C(C)OCCO | C4H10O2
product | (2-Ethoxyethyl)-p-benzoylbenzoate | C(C)OCCOC(C1=CC=C(C=C1)C(C1=CC=CC=C1)=O)=O | C18H18O4
